US05264448
To a stirred mixture of 4-(4-methylthiophenoxy)benzylamine (124 mg, 0.505 mM), triethylamine (61 mg, 0.60 mM) and toluene (20 ml) was added dropwise a solution (10 ml) of 2,5-dimethylcyclopenta[1,2-c]-pyrazole-3-carbonyl chloride(100 mg, 0.503 mM) in toluene at 0°-10° C., and the mixture was stirred for 3 h at the room temperature. The mixture was poured into ice water, and the mixture was extracted with toluene. The extract was washed with saturated sodium hydrogen carbonate solution, water, saturated ammonium chloride solution and brine, dried with magnesium sulfate, and concentrated in vacuo. The residue was chromatographed over silica gel to give N-[4-(4-methylthiophenoxy)benzyl]-2,5-dimethylcyclopenta[1,2-c]pyrazole-3-carboxamide (138 mg, 67%) as colorless crystals, m.p. 138.0° C.

reactant | 4-(4-methylthiophenoxy)benzylamine | 0.505 mM, 124 mg | CC1=CC=C(SC2=CC=C(CN)C=C2)C=C1 | C14H15NS
reactant | triethylamine | 0.60 mM, 61 mg | C(C)N(CC)CC | C6H15N
reactant | 2,5-dimethylcyclopenta[1,2-c]-pyrazole-3-carbonyl chloride | 0.503 mM, 10 ml, 100 mg | CN1NC=2C(=C1C(=O)Cl)C=C(C2)C | C9H9ClN2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-[4-(4-methylthiophenoxy)benzyl]-2,5-dimethylcyclopenta[1,2-c]pyrazole-3-carboxamide | 138 mg, 67% | CC1=CC=C(SC2=CC=C(CNC(=O)C3=C4C(NN3C)=CC(=C4)C)C=C2)C=C1 | C23H23N3OS
